### PR TITLE
[Merged by Bors] - refactor: reorder Topology/CWComplex/Classical/Basic.lean

### PR DESCRIPTION
**Pull request by scholzhannah**
This PR reorders the file Topology/CWComplex/Classical/Basic.lean. This is to prepare for the addition of the notion of subcomplexes which will require turning `skeleton` and `skeletonLT` into a subcomplex. 

Co-authored-by: Floris van Doorn <fpvdoorn@gmail.com>

---

The reordering requires changing the proof of the following lemmas: 
- `RelCWComplex.closedCell_subset_complex`
- `RelCWComplex.openCell_subset_complex`
- `RelCWComplex.base_subset_complex`
- `RelCWComplex.union_iUnion_openCell_eq_complex`
- `RelCWComplex.iUnion_openCell_eq_skeletonLT`
And the addition of: 
- `RelCWComplex.iUnion_openCell_eq_iUnion_closedCell`

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 1]
```diff
@@ -398,27 +295,20 @@ lemma RelCWComplex.isClosed [T2Space X] [RelCWComplex C D] : IsClosed C := by
...
-lemma RelCWComplex.skeleton_union_iUnion_closedCell_eq_skeleton_succ [RelCWComplex C D] (n : ℕ) :
-    skeleton C n ∪ ⋃ (j : cell C (n + 1)), closedCell (n + 1) j = skeleton C (n + 1) :=
-  skeletonLT_union_iUnion_closedCell_eq_skeletonLT_succ _
-
-/-- A version of the definition of `skeletonLT` with open cells. -/
-lemma RelCWComplex.iUnion_openCell_eq_skeletonLT [RelCWComplex C D] (n : ℕ∞) :
-    D ∪ ⋃ (m : ℕ) (_ : m < n) (j : cell C m), openCell m j = skeletonLT C n := by
+/-- A helper lemma that is essentially the same as `RelCWComplex.iUnion_openCell_eq_skeletonLT`.
+Use that lemma instead. -/
+protected lemma RelCWComplex.iUnion_openCell_eq_iUnion_closedCell [RelCWComplex C D] (n : ℕ∞) :
```
Comment (grunweg) [inline Mathlib/Topology/CWComplex/Classical/Basic.lean:300]: Would somebody in a different file ever want to use this lemma? (Or is this just an auxiliary result, which you need to add to avoid cyclic dependencies/ to deal with the fact that one single file is linear?)

If the answer is "no" (which I suspect, but don't know) - can you make this `private`, please?
I just asked, Floris doesn't object to that. What do you think?

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/Topology/CWComplex/Classical/Basic.lean [hunk 2]
```diff
@@ -281,92 +256,20 @@ lemma CWComplex.closed (C : Set X) [CWComplex C] [T2Space X] (A : Set X) (asubc
...
-    openCell n j ⊆ skeletonLT C (n + 1) :=
-  (openCell_subset_closedCell _ _).trans (closedCell_subset_skeletonLT _ _ )
-
-lemma RelCWComplex.openCell_subset_skeleton [RelCWComplex C D] (n : ℕ) (j : cell C n) :
-    openCell n j ⊆ skeleton C n :=
-  (openCell_subset_closedCell _ _).trans (closedCell_subset_skeleton _ _)
+    closedCell n j ⊆ C :=  by
+  simp_rw [← union]
+  apply subset_union_of_subset_right
+  exact subset_iUnion₂ _ _
```
[the remark this answers is not in the document]
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: I could not figure out how to do one but maybe two is already enough?

File: Mathlib/Topology/CWComplex/Classical/Basic.lean (hunk 1 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: Thanks! This is what I was trying to do with the `protected`. I guess I don't really know when to use what.

Comment (grunweg) [reply Mathlib/Topology/CWComplex/Classical/Basic.lean]: No worries, I'm not sure if there's a consensus about this in every single case. In your case, `private` seems fine.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
